US07858643B2
To a solution of 4-(4-bromo-pyrazol-1-yl)-piperidine (375 mg, 1.63 mmol) in DMF (3.26 mL) was added NEt3 (230 μL, 1.63 mmol) and stirred for 5 minutes. Methyliodide (MeI) (1.63 mL, 1M MeI in DMF, freshly made) was added and the reaction was stirred overnight at room temperature. Water was added and the solution was extracted with EtOAc (4×10 mL). The organic solution was washed with brine, dried with Na2SO4, concentrated, and dried in vacuo to afford 4-(4-bromo-pyrazol-1-yl)-1-methyl-piperidine (251 mg, 63% yield).

reactant | 4-(4-bromo-pyrazol-1-yl)-piperidine | 1.63 mmol, 375 mg | BrC=1C=NN(C1)C1CCNCC1 | C8H12BrN3
reactant | NEt3 | 1.63 mmol, 230 μL | CCN(CC)CC | C6H15N
reactant | Methyliodide | CI | CH3I
reactant | MeI | 1M, 1.63 mL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 3.26 mL | CN(C)C=O | C3H7NO
product | 4-(4-bromo-pyrazol-1-yl)-1-methyl-piperidine | 251 mg, 63% yield | BrC=1C=NN(C1)C1CCN(CC1)C | C9H14BrN3
